US09428528B2
Step 4 Preparation of tert-butyl ((5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate
To a stirred solution of tert-butyl ((5-bromo-1,3,4-thiadiazol-2-yl)methyl)-carbamate (0.878 g, 2.98 mmol) and 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide (1.20 g, 2.71 mmol) in dimethylformamide (20 mL) is added CsF (0.818 g, 5.42 mmol) followed by CuI (0.051 g, 0.271 mmol). Resulting reaction mixture is degassed with nitrogen for 30 minutes and Pd(PPh3)4 (0.313 g, 0.271 mmol) added. The reaction mixture is heated to 90° C. for 5 hours. Reaction mixture is concentrated in vacuo to give the crude material, which is purified by column chromatography on silica gel eluting in 1% methanol in CH2Cl2 to give the title compound (100 mg): 1H-NMR (400 MHz, DMSO-d6) δ 1.40 (s, 9H), 4.24-4.26 (m, 1H), 4.29-4.33 (m, 0.5H), 4.41-4.45 (m, 0.5H), 4.52 (d, J=5.96 Hz, 2H), 4.57-4.61 (m, 0.5H), 4.69-4.72 (m, 0.5H), 4.93 (t, J=3.76 Hz 1H), 6.08 (d, J=4.28 Hz, 1H), 6.49 (s, 1H), 7.51 (d, J=8.24 Hz, 2H), 7.86-7.90 (m, 3H), 8.63 (d, J=8.96 Hz, 1H). LC-Ms (m/z): [M−H]=490.80.

reactant | tert-butyl ((5-bromo-1,3,4-thiadiazol-2-yl)methyl)-carbamate | 2.98 mmol, 0.878 g | BrC1=NN=C(S1)CNC(OC(C)(C)C)=O | C8H12BrN3O2S
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide | 2.71 mmol, 1.20 g | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | CsF | 5.42 mmol, 0.818 g | [F-].[Cs+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | CuI | 0.271 mmol, 0.051 g | [Cu]I
catalyst | Pd(PPh3)4 | 0.271 mmol, 0.313 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl ((5-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | 100 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C1=NN=C(S1)CNC(OC(C)(C)C)=O)CF)Cl | C19H23Cl2FN4O4S
